### PR TITLE
refactor(RepresentationTheory/Character): assume `FiniteDimensional k ρ.asModule` instead

### PR DESCRIPTION
**Pull request by plp127**
Change the assumptions of some theorems to `FiniteDimensional k ρ.asModule` instead of `FiniteDimensional k V`, so that typeclass inference may use `ρ` as an argument to typeclass search. Prove that irreducible representations of finite groups are finite dimensional, and use it to remove some `FiniteDimensional` assumptions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/Irreducible.lean [hunk 1]
```diff
@@ -65,6 +65,13 @@ theorem bijective_or_eq_zero [IsIrreducible σ] : Bijective f ∨ f = 0 := by
 instance [IsIrreducible σ] [IsEmpty (Equiv ρ σ)] : Subsingleton (IntertwiningMap ρ σ) :=
   ⟨fun f g ↦ sub_eq_zero.mp <| (bijective_or_eq_zero _).resolve_left
     fun h ↦ isEmpty_iff.mp inferInstance <| (f - g).ofBijective h⟩
+
+variable (ρ) in
+include ρ in
+theorem finiteDimensional [Finite G] : FiniteDimensional k V :=
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Irreducible.lean]:
```suggestion
instance [Finite G] : FiniteDimensional k ρ.asModule :=
```
Does it look good to you?

Comment (plp127) [reply Mathlib/RepresentationTheory/Irreducible.lean]: We should still have both surely?

Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Irreducible.lean]: No, you can completely delete this lemma.

File: Mathlib/RepresentationTheory/Character.lean [hunk 2]
```diff
@@ -143,6 +143,8 @@ algebraically closed field whose characteristic doesn't divide the order of the
 theorem char_orthonormal [IsIrreducible ρ] [IsIrreducible σ] :
     (Nat.card G : k)⁻¹ * ∑ g : G, ρ.character g * σ.character g⁻¹ =
       if Nonempty (Equiv σ ρ) then ↑1 else ↑0 := by
+  have := IsIrreducible.finiteDimensional ρ
+  have := IsIrreducible.finiteDimensional σ
```
Comment (JX-Mo) [inline Mathlib/RepresentationTheory/Character.lean:147]:
```suggestion
  have := ρ.asModuleEquiv.finiteDimensional
  have := σ.asModuleEquiv.finiteDimensional
```

Comment (JX-Mo) [reply Mathlib/RepresentationTheory/Character.lean:147]: I think you might not want IsIrreducible.finiteDimensional anymore

**Comment by JX-Mo** [comment]
Personally, I would like to avoid `asModule` in general and most part of the libary doesn't use it. So, my suggestion is to make a small PR first: add one instance
```
instance [Finite G] : FiniteDimensional k ρ.asModule :=
  Module.Finite.trans k[G] ρ.asModule
```
with two line line application removing the `FiniteDimensional` assumption for finite groups
```
  have := IsIrreducible.finiteDimensional ρ
  have := IsIrreducible.finiteDimensional σ
```
That would be a nice small improvement and will easily get merged. Then make another PR sell "assume `FiniteDimensional k ρ.asModule` instead".
